US06660744B1
A solution of trans-3-(4-amino-3-methoxyphenyl)-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.162 g, 0.371 mmol) in pyridine (2 mL) at 0° C. was treated with trans-2-phenyl-1-cyclopropylcarbonyl chloride (0.134 g, 0.742 mmol) under a nitrogen atmosphere. The reaction mixture was stirred for 20 min at 0° C., the ice bath was removed and the reaction mixture stirred at room temperature for 5 h. Additional trans-2-phenyl-1-cyclopropylcarbonyl chloride (0.034 g, 0.186 mmol) was added and the reaction mixture stirred for 1 h. The organic layer was removed under reduced pressure, and dichloromethane (15 mL) was then added. The layers were separated using an Empore extraction cartridge. The organic layer was removed under reduced pressure. The crude product was purified by flash chromatography on silica gel using 15% methanol in dichloromethane then 20% methanol in dichloromethane as eluent. The column afforded 0.150 g (70%) of trans-N1-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxyphenyl)-(1S,2S)-2-phenylcyclopropane-1-carboxamide. A hot solution of trans-N1-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxyphenyl)-(1S,2S)-2-phenylcyclopropane-1-carboxamide (0.147, 0.253 mmol) in ethyl acetate was treated with a hot solution of maleic acid (0.088 g, 0.759 mmol) in ethyl acetate. The precipitate formed was filtered under nitrogen and dried under high vacuum to give 0.204 g of trans-N1-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxyphenyl)-(1S,2S)-2-phenylcyclopropane-1-carboxamide tris-maleate. 1H NMR (DMSO-d6, 400 MHz) δ 9.64 (s, 1H), 8.23-8.21 (m, 2H), 7.33-7.29 (m, 2H), 7.24-7.17 (m, 4H), 6.16 (s, 6H), 4.69-4.66 (m, 1H), 3.90 (s, 3H), 2.90-2.60 (m, 7H), 2.37-2.35 (m, 2H), 2.10-1.99 (m, 8H), 1.70-1.50 (m, 3H), 1.32 (m, 1H); HPLC Waters 2690 Alliance HPLC (Symmetry Shield RP18 3.5 μm, 2.1×50 mm; 5%-95% acetonitrile-0.1 M ammonium acetate over 15 min, 0.5 mL/min) Rt 5.346 min (97%).

reactant | trans-3-(4-amino-3-methoxyphenyl)-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.371 mmol, 0.162 g | NC1=C(C=C(C=C1)C1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C)OC | C23H32N8O
reactant | trans-2-phenyl-1-cyclopropylcarbonyl chloride | 0.742 mmol, 0.134 g | C1(=CC=CC=C1)[C@H]1[C@@H](C1)C(=O)Cl | C10H9ClO
reactant | trans-2-phenyl-1-cyclopropylcarbonyl chloride | 0.186 mmol, 0.034 g | C1(=CC=CC=C1)[C@H]1[C@@H](C1)C(=O)Cl | C10H9ClO
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | trans-N1-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxyphenyl)-(1S,2S)-2-phenylcyclopropane-1-carboxamide | 0.150 g, 70% | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(=O)[C@@H]2[C@H](C2)C2=CC=CC=C2)OC)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C | C33H40N8O2
